US09402841B2
A solution of crude (Z)-methyl 2-fluoro-6-((5-oxo-2-phenyloxazol-4(5H)-ylidene)methyl)benzoate (15 g) and potassium hydroxide (2.58 g, 46 mmol) in acetic anhydride (150 mL) was heated at 100° C. for 2 hours. The solvent was removed in vacuo, and the residue was diluted with water (30 mL). The resulting mixture was neutralized with 1M aqueous HCl (100 mL) and filtered. The solids were dried in vacuo to give 8-fluoro-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid (4 g, ESI-MS m/z [M+H]+ 208.0) which was converted to the methyl ester as described, below. The filtrate was concentrated under reduced pressure to give crude product which was purified by column chromatography eluting with a gradient of EtOAc (30-100%) and PE to give a first batch of the title compound (2 g, 19.6%). ESI-MS m/z [M+H]+=222.1.

reactant | (Z)-methyl 2-fluoro-6-((5-oxo-2-phenyloxazol-4(5H)-ylidene)methyl)benzoate | 15 g | FC1=C(C(=O)OC)C(=CC=C1)\C=C\1/N=C(OC1=O)C1=CC=CC=C1 | C18H12FNO4
reactant | potassium hydroxide | 46 mmol, 2.58 g | [OH-].[K+]
solvent | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 8-fluoro-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid | 4 g | FC=1C=CC=C2C=C(NC(C12)=O)C(=O)O | C10H6FNO3
